US04318913
3-(1-Piperidinylmethyl)benzenemethanol
A mixture of 3-(1-piperidinylmethyl)benzoic acid, methyl ester (17.56 g) and lithium aluminium hydride (2.68 g) in tetrahydrofuran (500 ml) was stirred at room temperature for 30 h and quenched with water. The solid was removed by filtration and the filtrate distilled to give the title compound as a colourless oil (11.1 g) b.p. 135° (10-1 mm). TLC silica; ether; Rf 0.2.

reactant | 3-(1-piperidinylmethyl)benzoic acid, methyl ester | 17.56 g | N1(CCCCC1)CC=1C=C(C(=O)OC)C=CC1 | C14H19NO2
reactant | lithium aluminium hydride | 2.68 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 3-(1-Piperidinylmethyl)benzenemethanol | 11.1 g | N1(CCCCC1)CC=1C=C(C=CC1)CO | C13H19NO
